US07132426B2
8-Iodo-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester (2 g, 5.83 mmol) was suspended in 10% NaOH in water (20 mL). The mixture was stirred under reflux for 1 h. The crude was cooled to room temperature and acidified with concentrated HCl. The solid was filtered off and thoroughly washed with water to afford 8-iodo-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid as a pinkish solid (1.5 g, 81.6%). 1H NMR (DMSO-d6, 400 MHz) δ 7.04 (t, 1H), 8.12–8.16 (m, 2H), 8.71 (s, 1H). Exact mass calculated for C10H6INO3 314.94, found 316 (MH+).

reactant | 8-Iodo-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester | 5.83 mmol, 2 g | C(C)OC(=O)C1=CNC2=C(C=CC=C2C1=O)I | C12H10INO3
reactant | HCl | Cl | ClH
solvent | NaOH | [OH-].[Na+]
solvent | water | 20 mL | O | H2O
product | 8-iodo-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 1.5 g, 81.6% | IC=1C=CC=C2C(C(=CNC12)C(=O)O)=O | C10H6INO3
